US20010046993A1
A. [1-[(4-Benzyl-1-piperazinyl)methyl]cyclohexyl]methanamine
A suspension of 1-[(4-benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile (3.2 g/10.8 mmol) and LAH (1.6 g/43.2 mmol) in tetrahydrofuran (100 ml) was refluxed for 3 h. After cooling down, the excess reagent was quenched with water saturated diethylether and the resulting gray suspension was stirred until the suspension turned to white suspension. The resulting suspension was filtered through a pad of Celite. The filtrate was dried over magnesium sulfate, filtered and concentrated in vacuo to give a crude (3.2 g/quant.). MS(m/z) 301(M+)

reactant | 1-[(4-benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile | 10.8 mmol, 3.2 g | C(C1=CC=CC=C1)N1CCN(CC1)CC1(CCCCC1)C#N | C19H27N3
reactant | LAH | 43.2 mmol, 1.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [1-[(4-Benzyl-1-piperazinyl)methyl]cyclohexyl]methanamine | C(C1=CC=CC=C1)N1CCN(CC1)CC1(CCCCC1)CN | C19H31N3
